US07317033B2
a) N-(2-Aminophenyl)-N′-(4-methyl-3-thienyl)thiourea
is obtained analogously to the reaction described in example 1 b) from 4-methyl-3-thienyl isothiocyanate and 1,2-diaminobenzene. Crystalline solid having a 1st m.p. of 177-182° C., followed by another crystallization and 2nd m.p. 285-290° C.

reactant | 4-methyl-3-thienyl isothiocyanate | CC=1C(=CSC1)N=C=S | C6H5NS2
reactant | 1,2-diaminobenzene | NC1=C(C=CC=C1)N | C6H8N2
product | N-(2-Aminophenyl)-N′-(4-methyl-3-thienyl)thiourea | NC1=C(C=CC=C1)NC(=S)NC1=CSC=C1C | C12H13N3S2
